US07612094B2
2-[5-Benzo[1,3]dioxol-5-yl-2-(1-phenylmethanesulfonyl-piperidin-4-yl)-3H-imidazol-4-yl]-pyridine
α-Toluenesulfonyl chloride (0.023 g, 0.12 mmol) and diisopropylethylamine (0.026 mL, 0.15 mmol) were added to a solution of 2-(5-benzo[1,3]dioxol-5-yl-2-piperidin-4-yl-3H-imidazol-4-yl)-pyridine (0.035 g, 0.10 mmol, in 3 mL of anhydrous THF), which was prepared with 4-(4-benzo[1,3]dioxol-5-yl-5-pyridin-2-yl-1H-imidazol-2-yl)-piperidine-1-carboxylic acid benzyl ester in a similar manner as described in Example 9. The reaction mixture was stirred at room temperature for 3 hours. Solvent was removed under reduced pressure, and the residue was dissolved in 1 mL DMSO. The DMSO solution was filtered and injected onto preparative HPLC. HPLC purification eluting with acetonitrile:water gave 0.005 g (10%) of the title compound as a yellow solid. MS (ESP+) m/z 503.1 (M+1). 1H NMR (400 MHz, Methanol-d4) δ 8.67 (m, 1H), 7.82 (m, 1H), 7.42 (m. 7H), 7.02 (m, 3H), 6.07 (s, 2H), 4.38 (s, 2H), 3.81 (m, 2H), 3.17 (m, 1H), 2.85 (m, 1H), 2.10 (m, 2H), 1.90 (m, 2H).

reactant | α-Toluenesulfonyl chloride | 0.12 mmol, 0.023 g | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
reactant | diisopropylethylamine | 0.15 mmol, 0.026 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(5-benzo[1,3]dioxol-5-yl-2-piperidin-4-yl-3H-imidazol-4-yl)-pyridine | 0.10 mmol, 3 mL, 0.035 g | O1COC2=C1C=CC(=C2)C2=C(NC(=N2)C2CCNCC2)C2=NC=CC=C2 | C20H20N4O2
reactant | 4-(4-benzo[1,3]dioxol-5-yl-5-pyridin-2-yl-1H-imidazol-2-yl)-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=1NC(=C(N1)C1=CC2=C(OCO2)C=C1)C1=NC=CC=C1 | C28H26N4O4
product | 2-[5-Benzo[1,3]dioxol-5-yl-2-(1-phenylmethanesulfonyl-piperidin-4-yl)-3H-imidazol-4-yl]-pyridine | 0.005 g, 10% | O1COC2=C1C=CC(=C2)C2=C(NC(=N2)C2CCN(CC2)S(=O)(=O)CC2=CC=CC=C2)C2=NC=CC=C2 | C27H26N4O4S
